US09422298B2
A solution of N-(5-bromo-2-chloropyridin-3-yl)-N-(2,4-difluorophenylsulfonyl)-2,4-difluorobenzenesulfonamide (19.3 g, 34.4 mmol) in dioxane (340 ml) was heated at 80° C. And then 2 N aq. KOH (86.0 ml, 172 mmol) was added to the mixture. After stirring for 30 min, the reaction mixture was cooled to room temperature, and then quenched with 1 N aq. HCl until pH 3. The resulting solid was collected by filtration and washed with water to give the N-(5-bromo-2-chloropyridin-3-yl)-2,4-difluorobenzenesulfonamide (8.36 g, 63.4%) as a white solid. 1H-NMR (CDCl3, Varian 400 MHz) δ 7.25 (1H, t, J=8.4 Hz), 7.58 (1H, t, J=9.2 Hz), 7.77-7.83 (1H, m), 8.03 (1H, d, J=2.0 Hz), 8.44 (1H, d, J=2.0 Hz), 11.04 (1H, brs).

reactant | N-(5-bromo-2-chloropyridin-3-yl)-N-(2,4-difluorophenylsulfonyl)-2,4-difluorobenzenesulfonamide | 34.4 mmol, 19.3 g | BrC=1C=C(C(=NC1)Cl)N(S(=O)(=O)C1=C(C=C(C=C1)F)F)S(=O)(=O)C1=C(C=C(C=C1)F)F | C17H8BrClF4N2O4S2
reactant | KOH | 172 mmol, 2 N, 86.0 ml | [OH-].[K+]
solvent | dioxane | 340 ml | O1CCOCC1 | C4H8O2
product | N-(5-bromo-2-chloropyridin-3-yl)-2,4-difluorobenzenesulfonamide | 8.36 g, 63.4% | BrC=1C=C(C(=NC1)Cl)NS(=O)(=O)C1=C(C=C(C=C1)F)F | C11H6BrClF2N2O2S
